US05246948
Synthesis of 4-[3-(N-benzyl-N-acetylamino)propylthio]pyridine
To a solution of 1.0 g (3.87 mmol) of 4-[3-(N-benzylamino)propylthio)-pyridine and 0.65 ml (4.64 mmol) of triethylamine in 25 ml of methylene chloride, 0.49 ml (4.64 mmol) of acetyl chloride was added under ice-cooling with stirring. The mixture was stirred at room temperature for 30 minutes. The reaction mixture was washed with a saturated aqueous solution of sodium bicarbonate and water and dried, and then the solvent was distilled off. The residue was purified by column chromatography (eluent: chloroform/methanol=25:1) to obtain 980 mg of the desired compound (yield: 84.2%, yellow oil).

reactant | 4-[3-(N-benzylamino)propylthio)-pyridine | 3.87 mmol, 1.0 g | C(C1=CC=CC=C1)NCCCSC1=CC=NC=C1 | C15H18N2S
reactant | triethylamine | 4.64 mmol, 0.65 ml | C(C)N(CC)CC | C6H15N
reactant | acetyl chloride | 4.64 mmol, 0.49 ml | C(C)(=O)Cl | C2H3ClO
solvent | methylene chloride | 25 ml | C(Cl)Cl | CH2Cl2
product | 4-[3-(N-benzyl-N-acetylamino)propylthio]pyridine | 980 mg, yield: 84.2% | C(C1=CC=CC=C1)N(C(C)=O)CCCSC1=CC=NC=C1 | C17H20N2OS
